US07863310B2
4-Phenyl-5-(3-(isopropylamino)-4-nitrophenyl)-[1,2,3]triazole
Add sodium azide (0.13 g) to a solution of 1-phenyl-2-(3-(isopropylamino)-4-nitrophenyl)acetylene (0.56 g) in dimethoxyethane (5 mL). Heat to reflux for 2 hours. Cool to room temperature. Add 1N hydrochloric acid (10 mL), extract with ethyl acetate (20 mL), and wash with saturated aqueous sodium chloride (2×10 mL). Dry organic phase over sodium sulfate and concentrate under reduced pressure. Subject the reside to silica gel chromatography, eluting with 1:1 ethyl acetate:hexane to provide the desired compound as a yellow solid (0.51 g, 80%).

reactant | sodium azide | 0.13 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-phenyl-2-(3-(isopropylamino)-4-nitrophenyl)acetylene | 0.56 g | C1(=CC=CC=C1)C#CC1=CC(=C(C=C1)[N+](=O)[O-])NC(C)C | C17H16N2O2
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
product | 4-Phenyl-5-(3-(isopropylamino)-4-nitrophenyl)-[1,2,3]triazole | 0.51 g, 80% | C1(=CC=CC=C1)C=1N=NNC1C1=CC(=C(C=C1)[N+](=O)[O-])NC(C)C | C17H17N5O2
